US04600707
N-[2-(benzo[b]thien-3-yl)ethyl]adenosine
The title compound was prepared as in Example 1 using 6-chloropurine riboside (1.15 g, 4 mmol), 2-(3-benzo[b]thienyl)ethylamine.HCl (CAS Number 148585-66-1) (1.0 g, 4.6 mmol), and triethylamine (1.1 g, 11 mmol); yield 1.5 g (88%), mp 173°-174° C.

reactant | 6-chloropurine riboside | 4 mmol, 1.15 g | C1=NC2=C(C(=N1)Cl)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O | C10H11ClN4O4
reactant | 2-(3-benzo[b]thienyl)ethylamine | S1C2=C(C(=C1)CCN)C=CC=C2 | C10H11NS
reactant | HCl | 4.6 mmol, 1.0 g | Cl | ClH
reactant | triethylamine | 11 mmol, 1.1 g | C(C)N(CC)CC | C6H15N
product | N-[2-(benzo[b]thien-3-yl)ethyl]adenosine | S1C2=C(C(=C1)CCNC=1C=3N=CN([C@H]4[C@H](O)[C@H](O)[C@@H](CO)O4)C3N=CN1)C=CC=C2 | C20H21N5O4S
